US05332757
Using analogous procedures to those described in Example 170, di-[(E)-4-(1-tert-butyldimethylsilyloxyiminoethyl)phenyl]disulphide was reacted with (2S,4R)-4-methoxy-2-methyl-4-(3-thienyl)tetrahydropyran to give (E)-4'-{4-[(2S,4R)-4-methoxy-2-methyltetrahydropyran-4-yl]thien-2-ylthio}acetophenone oxime in 63% yield as an oil.

reactant | di-[(E)-4-(1-tert-butyldimethylsilyloxyiminoethyl)phenyl]disulphide | [Si](C)(C)(C(C)(C)C)O\N=C(/C)\C1=CC=C(C=C1)SSC1=CC=C(C=C1)/C(/C)=N/O[Si](C)(C)C(C)(C)C | C28H44N2O2S2Si2
reactant | (2S,4R)-4-methoxy-2-methyl-4-(3-thienyl)tetrahydropyran | CO[C@]1(C[C@@H](OCC1)C)C1=CSC=C1 | C11H16O2S
product | (E)-4'-{4-[(2S,4R)-4-methoxy-2-methyltetrahydropyran-4-yl]thien-2-ylthio}acetophenone oxime | 63% yield | CO[C@]1(C[C@@H](OCC1)C)C=1C=C(SC1)SC1=CC=C(C=C1)/C(/C)=N/O | C19H23NO3S2
